US04379788
(a) 2-[4-(3-Chloro-propoxy)-phenyl]-8-methoxy-3,4-dihydro-quinazolin-4-one
2.7 gm (10 mmols) of 2-(4-hydroxy-phenyl)-8-methoxy-3,4-dihydro-quinazolin-4-one were dissolved in 30 ml of sulfolane and reacted with 1.5 gm (10 mmols+10%) of potassium carbonate. The resulting clear solution was admixed with 2.7 ml of 1-bromo-3-chloro-propane, and the mixture was stirred at room temperature until the reaction was complete. The reaction mixture was then poured into ice water, the aqueous mixture was extracted with ethyl acetate, and the combined organic extracts were dried over sodium sulfate and evaporated. A colorless oil was obtained, which crystallized upon cooling.

reactant | 2-(4-hydroxy-phenyl)-8-methoxy-3,4-dihydro-quinazolin-4-one | 10 mmols, 2.7 gm | OC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1)=O)OC | C15H12N2O3
reactant | potassium carbonate | 10 mmols, 1.5 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloro-propane | 2.7 ml | BrCCCCl | C3H6BrCl
solvent | sulfolane | 30 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-[4-(3-Chloro-propoxy)-phenyl]-8-methoxy-3,4-dihydro-quinazolin-4-one | ClCCCOC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1)=O)OC | C18H17ClN2O3
